US05292740
216 mg of 2-[4-(4-tert-butyl-phenylsulphonylamino)-6-chloro-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine 1-oxide were added to a solution of 46 mg of Na in pure ethylene glycol and the solution which slowly resulted was heated at 80° C. overnight. The solution was poured into aqueous acetic acid, the precipitate was extracted with ethyl acetate, triturated with ether and filtered off under suction. There was obtained 2-[4-(4-tert-butyl-phenylsulphonylamino)-6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine 1-oxide as an amorphous mass which was dried in a high vacuum at 40° C. MS: (M+H)+ =567.4.

reactant | 2-[4-(4-tert-butyl-phenylsulphonylamino)-6-chloro-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine 1-oxide | 216 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=[N+](C=CC=C1)[O-] | C26H25ClN4O5S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethylene glycol | C(CO)O | C2H6O2
product | 2-[4-(4-tert-butyl-phenylsulphonylamino)-6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine 1-oxide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCO)C1=[N+](C=CC=C1)[O-] | C28H30N4O7S
